US03994900
6-[3-(Dimethylamino)propoxy]-3,4-dihydro-4-phenyl-2 (1H)-quinolinone, hydrochloride (1:1)
A solution of 6-[3-(dimethylamino)propoxy]-3,4-dihydro-4-phenyl-2 (1H)-quinolinone (16.3g) in 30 ml of warm ethanol is stirred and treated dropwise with one equivalent of ethanolic hydrogen chloride. At 25° C, an equal volume of ether is added and the solution is seeded and cooled to give 13.3g of crystals. Crystallization from 200 ml of acetonitrile yields 12.0g of the title compound, melting point 182°-184° C.

reactant | 6-[3-(dimethylamino)propoxy]-3,4-dihydro-4-phenyl-2 (1H)-quinolinone | 16.3g | CN(CCCOC=1C=C2C(CC(NC2=CC1)=O)C1=CC=CC=C1)C | C20H24N2O2
reactant | hydrogen chloride | one equivalent | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-[3-(Dimethylamino)propoxy]-3,4-dihydro-4-phenyl-2 (1H)-quinolinone, hydrochloride | 13.3g | Cl.CN(CCCOC=1C=C2C(CC(NC2=CC1)=O)C1=CC=CC=C1)C | InChI=1S/C20H24N2O2.ClH/c1-22(2)11-6-12-24-16-9-10-19-18(13-16)17(14-20(23)21-19)15-7-4-3-5-8-15;/h3-5,7-10,13,17H,6,11-12,14H2,1-2H3,(H,21,23);1H
